US06362201B1
1-(7-Indolecarbonyl)-3-(R)-(4-(4fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine
To a solution of 0.02 g (0.067 mmol) of 3-(S)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine and 0.0012 g of (0.01 mmol) dimethylanrinopyridine (DMAP) in 2 mL of CH2Cl2 at rt was added 0.019 g (0.1 mmol) of 1,3-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) and 0.016 g (0.1 mmol) of 7-indolecarboxylic acid and the reaction mixture was stirred for 1 h. The reaction mixture was partitioned between ethyl acetate and sat'd NaHCO3 solution. The organic fraction was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chomatography (HPLC Waters Nova-Pak 8×10 RCM 25-40% MeOH in H2O 0.5% TFA) to give the title compound.

reactant | 3-(S)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.067 mmol, 0.02 g | FC1=CC=C(C=C1)C1CCN(CC1)C[C@@H]1CNC[C@H]1C1CC1 | C19H27FN2
reactant | 7-indolecarboxylic acid | 0.1 mmol, 0.016 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(7-Indolecarbonyl)-3-(R)-(4-(4fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | N1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H32FN3O
